US08114886B2
5-[[(4-Chlorophenyl)thio](2,5-difluorophenyl)methyl]-4-methylpyridine-2-carboxamide
To a solution of 5-[[(4-chlorophenyl)thio](2,5-difluorophenyl)methyl]-4-meth ylpyridine-2-carboxylic acid (406 mg, 1.00 mmol) in N,N-dimethylformamide (10 ml), (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (781 mg, 1.50 mmol), 1-hydroxybenzotriazole (203 mg, 1.50 mmol), ammonium chloride (107 mg, 2.00 mmol), and N-ethyldiisopropylamine (0.697 ml, 4.00 mmol) were added in an argon atmosphere at room temperature. After stirring for 12 hours at room temperature, ethyl acetate was added to the reaction mixture, and the mixture was washed with 0.5 N hydrochloric acid. The organic layer was dried over anhydrous sodium sulfate and filtered, the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=2:1 was concentrated under reduced pressure, to obtain the title compound (398 mg, 0.98 mmol, 98%) as a white solid.

reactant | 5-[[(4-chlorophenyl)thio](2,5-difluorophenyl)methyl]-4-meth ylpyridine-2-carboxylic acid | 1.00 mmol, 406 mg | ClC1=CC=C(C=C1)SC(C=1C(=CC(=NC1)C(=O)O)C)C1=C(C=CC(=C1)F)F | C20H14ClF2NO2S
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 1.50 mmol, 781 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 1-hydroxybenzotriazole | 1.50 mmol, 203 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium chloride | 2.00 mmol, 107 mg | [Cl-].[NH4+]
reactant | N-ethyldiisopropylamine | 4.00 mmol, 0.697 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[[(4-Chlorophenyl)thio](2,5-difluorophenyl)methyl]-4-methylpyridine-2-carboxamide | 0.98 mmol, 398 mg, 98% | ClC1=CC=C(C=C1)SC(C=1C(=CC(=NC1)C(=O)N)C)C1=C(C=CC(=C1)F)F | C20H15ClF2N2OS
